US04070366
2,5-Dimethyl-3-ethyl-4-carbethoxy-pyrrole
As in Example 32 but using 2,5-dimethyl-3-carbethoxy-pyrrole and paraldehyde. Colourless crystals (75%), m.p. 105°-107° (lit18) 106°-107°). Anal. Calc. for C11H17NO2 : C, 67.66; H, 8.78; N, 7.17. Found: C, 67.54; H, 8.69; N, 7.28.

reactant | 2,5-dimethyl-3-carbethoxy-pyrrole | CC=1NC(=CC1C(=O)OCC)C | C9H13NO2
reactant | paraldehyde | CC1OC(OC(O1)C)C | C6H12O3
product | 2,5-Dimethyl-3-ethyl-4-carbethoxy-pyrrole | CC=1NC(=C(C1CC)C(=O)OCC)C | C11H17NO2
